US06353017B1
To a solution of 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine (1.0 g, 2.68 mmol) and O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide HCl (0.774 g, 2.68 mmol), 1-hydroxybenzotriazole hydrate (0.452 g, 2.95 mmol, and N-methylmorpholine (1.18 mL, 1.085 g, 10.72 mmol) in CH2Cl2 (50 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl (0.771 g, 4.02 mmol) in one portion and the mixture is stirred at room temperature for 16 hours. The solution is then washed with 1 N HCl (100 mL), saturated aqueous NaHCO3 (1×50 mL), water (1×50 mL) and brine (1×50 mL), dried over MgSO4, and evaporated. The residual solid is triturated with hot methanol to yield N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide as a white solid.

reactant | 3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanine | 2.68 mmol, 1.0 g | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)O)C=CC1 | C24H23NO3
reactant | O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide HCl | 2.68 mmol, 0.774 g | Cl.COC(=O)C=1C=C(C=CC1)COC[C@H](N)C(=O)N
reactant | 1-hydroxybenzotriazole hydrate | O.ON1N=NC2=C1C=CC=C2
reactant | N-methylmorpholine | 10.72 mmol, 1.18 mL, 1.085 g | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl | 4.02 mmol, 0.771 g | Cl.CN(CCCN=C=NCC)C
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-methyl-N-(2,2-diphenylacetyl)-L-phenylalanyl]-O-[[3-(methoxycarbonyl)phenyl]methyl]-L-serinamide | CC=1C=C(C[C@H](NC(C(C2=CC=CC=C2)C2=CC=CC=C2)=O)C(=O)NC([C@@H](N)COCC2=CC(=CC=C2)C(=O)OC)=O)C=CC1 | C36H37N3O6
